US09193723B2
(R)-tert-butyl 3-(4-nitrophenoxy)pyrrolidine-1-carboxylate
(R)-Tert-butyl 3-hydroxypyrrolidine-1-carboxylate (10 g, 53.4 mmol) was dissolved in 1-fluoro-4-nitrobenzene (13.94 g, 99 mmol). An aqueous solution of 5.9N potassium hydroxide (77 ml, 452 mmol) was added followed by addition of tetrabutylammonium bromide (2.238 g, 6.94 mmol). The reaction mixture was stirred at 40° C. for 24 hours, cooled, diluted with water and extracted with ethyl acetate. The combined organic layers were dried with sodium sulfate, filtered and concentrated to give the title compound.

reactant | (R)-Tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 53.4 mmol, 10 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 1-fluoro-4-nitrobenzene | 99 mmol, 13.94 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium hydroxide | 452 mmol, 5.9N, 77 ml | [OH-].[K+]
catalyst | tetrabutylammonium bromide | 6.94 mmol, 2.238 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (R)-tert-butyl 3-(4-nitrophenoxy)pyrrolidine-1-carboxylate | [N+](=O)([O-])C1=CC=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H20N2O5
